US09029545B2
N-{2-Bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-3-chlorobenzenesulfonamide
To a stirred solution of 2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine (213 mg, 0.610 mmol) (Description 17) in THF (5 mL) was added sodium tert-butoxide (234 mg, 2.440 mmol) at RT and the mixture stirred for 15 min before the addition of 3-chlorobenzenesulfonyl chloride (0.172 mL, 1.220 mmol). The mixture was then stirred for 3.5 h. Saturated ammonium chloride solution (20 mL) was added to the mixture which was then extracted with ethyl acetate (2×15 mL). The combined organics were washed with brine (20 mL), dried and concentrated. Purification by chromatography on silica gel, eluting with a gradient of 0-30% ethyl acetate in cyclohexane, afforded the title compound (157 mg). LCMS (A) m/z: 523/525 [M+1]+, Rt 1.54 min (acidic), Rt 1.83 min (basic).

reactant | 2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine | 0.610 mmol, 213 mg | BrC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)OC | C15H13BrN2OS
reactant | sodium tert-butoxide | 2.440 mmol, 234 mg | CC(C)([O-])C.[Na+]
reactant | 3-chlorobenzenesulfonyl chloride | 1.220 mmol, 0.172 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-{2-Bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-3-chlorobenzenesulfonamide | 157 mg | BrC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2=CC(=CC=C2)Cl)C)S1)C1=CC(=CC=C1)OC | C21H16BrClN2O3S2
